US07626021B2
Diisopropylamine (0.50 ml, 3.54 mmol) and tetrahyrofuran (40 ml) were combined and cooled to −20° C. with stirring. n-Butyl lithium (1.41 ml, 2.5 M in hexanes, 3.53 mmol) was slowly added and stirred at this temperature for 30 minutes. The temperature was decreased to −78 C and neat 5-bromo-2-fluoropyridine (0.38 ml, 3.69 mmol) was added (internal temperature was not allowed to exceed −68 C). The reaction mixture was stirred at −78° C. for 40 minutes. The reaction mixture was added to a solution of 3-methoxy-pyridine-2-carboxylic acid methoxy-methyl-amide (685 mg 3.49 mmol) in tetrahydrofuran (10 ml). This was stirred at −78 C for 1 hour. The reaction mixture was slowly warmed to room temperature, and quenched with saturated aqueous ammonium chloride. The reaction mixture was extracted with dichloromethane, dried over sodium sulfate, and concentrated. The crude product was purified by flash chromatography (0-50% ethyl acetate in hexanes) to give 685 mg (63%) of (5-bromo-2-fluoro-pyridin-3-yl)-(3-methoxy-pyridin-2-yl)-methanone. MS: m/z 310.6+312.9 (M+H+).

reactant | Diisopropylamine | 3.54 mmol, 0.50 ml | C(C)(C)NC(C)C | C6H15N
reactant | n-Butyl lithium | 3.53 mmol, 2.5 M, 1.41 ml | C(CCC)[Li]
reactant | 5-bromo-2-fluoropyridine | 3.69 mmol, 0.38 ml | BrC=1C=CC(=NC1)F | C5H3BrFN
reactant | 3-methoxy-pyridine-2-carboxylic acid methoxy-methyl-amide | 3.49 mmol, 685 mg | CON(C(=O)C1=NC=CC=C1OC)C | C9H12N2O3
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahyrofuran | 40 ml | O1CCCC1 | C4H8O
product | (5-bromo-2-fluoro-pyridin-3-yl)-(3-methoxy-pyridin-2-yl)-methanone | 685 mg, 63% | BrC=1C=C(C(=NC1)F)C(=O)C1=NC=CC=C1OC | C12H8BrFN2O2
